US06114527
Process for the Preparation of methyl 4-hydroxypyrimidine-5-carboxylate
Methyl oxalate (0.2 eq.) and malonomonoamide monomethyl ester (58.55 g, 0.50 mol) were added to an initial charge of sodium methoxide (279.4 g, 1.5 mol, 29% in methanol). 350 ml of dimethoxyethane were added. The solid Gold's reagent prepared as in Example 1 (89.35 g, 0.55 mol) was then added using a spatula. The suspension was then stirred at room temperature for 18 hours. The yellow suspension was poured on to an aqueous, ice-cold hydrochloric acid solution (2 eq. of HCl). Following filtration at pH 9-10, the moist sodium salt of the title product was taken up in HCl-saturated methanol, stirred for 15 min, filtered and dried. The yield of the title product in the form of its hydrochloride was 52.3 g (55%).

reactant | Methyl oxalate | 0.2 eq. | C(C(=O)[O-])(=O)OC
reactant | sodium methoxide | 1.5 mol, 279.4 g | C[O-].[Na+]
reactant | Gold's reagent | CN(C)C=NC=[N+](C)C.[Cl-]
solvent | dimethoxyethane | 350 ml | C(OC)COC | C4H10O2
product | methyl 4-hydroxypyrimidine-5-carboxylate | OC1=NC=NC=C1C(=O)OC | C6H6N2O3
